US05741811
Synthesis of 5,4"-dihydroxymethyl-2,2':5', 2"-terthiophene (NSC code #658878)
To a solution of 5-formyl-4"-hydroxymethyl-2,2':5', 2"-terthiophene (140 mg) in methanol (10 ml) was added sodium borohydride (0.1 g). The reaction mixture was stirred at room temperature for 40 minutes. Methanol was removed and water was added. The solution was extracted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and concentrated to give light yellowish solid product (140 mg), melting point 111°-113° C.

reactant | 5-formyl-4"-hydroxymethyl-2,2':5', 2"-terthiophene | 140 mg | C(=O)C1=CC=C(S1)C=1SC(=CC1)C=1SC=C(C1)CO | C14H10O2S3
reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 5,4"-dihydroxymethyl-2,2':5', 2"-terthiophene | 140 mg | OCC1=CC=C(S1)C=1SC(=CC1)C=1SC=C(C1)CO | C14H12O2S3
